US07534905B2
Enantioselective allylation of 3-benzyloxypropionaldehyde to give (3S)-1-benzyloxy-hex-5-en-3-ol: To a cooled (−10° C.) solution of(4R,5R)-2-Allyl-1,3-bis-(4-bromo-benzyl)-2-chloro-octahydro-benzo[1,3,2]diazasilole (1.0 mmol) in CH2Cl2 (5 mL) was added 3-benzyloxypropionaldehyde (1.0 mmol). The reaction mixture was transferred to a freezer (−10° C.) and maintained at that temperature for 20 h. To this cooled solution was added 1N HCl and EtOAc, and the mixture was vigorously stirred at room temperature for 15 min. The layers were separated and the aqueous layer was extracted with EtOAc 3 times. The combined organic layers were diluted with hexane, dried (MgSO4), filtered, and concentrated. Purification of the residue by chromatography on silica gel gave (3S)-1-benzyloxy-hex-5-en-3-ol in 87% yield and 98% ee.

reactant | 3-benzyloxypropionaldehyde | 1.0 mmol | C(C1=CC=CC=C1)OCCC=O | C10H12O2
reactant | HCl | 1N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (3S)-1-benzyloxy-hex-5-en-3-ol | 87% yield | C(C1=CC=CC=C1)OCC[C@H](CC=C)O | C13H18O2
